US05952362
To a solution of t-butyl nitrite (t-BuONO) (7.32 g) in dimethyl formamide (DMF) (50 mL, from Mallinckrodt) at 65° C. was added dropwise a solution of 3,6-dimethyl-2.4-dinitro-phenylamine (10 g, from above) in DMF (50 mL) during 5-10 min. The mixture was heated at 65° C. for 15 min and the solvent was removed under reduced pressure. The residue was partitioned between dichloromethane (300 mL) and half-saturated sodium chloride solution. The dichloromethane solution was washed with additional half-saturated sodium chloride solution (300 mL) and dried over magnesium sulfate. After evaporation of the solvent, the residue was taken up in dichloromethane (250 mL) and passed through a short column (silica gel). Eluting with dichloromethane gave 2,5-dimethyl-1,3-dinitro-benzene (7.75 g).

reactant | t-butyl nitrite | 7.32 g | N(=O)OC(C)(C)C | C4H9NO2
reactant | 3,6-dimethyl-2.4-dinitro-phenylamine | 10 g | CC=1C(=C(C(=CC1[N+](=O)[O-])C)N)[N+](=O)[O-] | C8H9N3O4
solvent | dimethyl formamide | 50 mL | CN(C=O)C | C3H7NO
solvent | DMF | 50 mL | CN(C=O)C | C3H7NO
product | 2,5-dimethyl-1,3-dinitro-benzene | 7.75 g | CC1=C(C=C(C=C1[N+](=O)[O-])C)[N+](=O)[O-] | C8H8N2O4
